US04751232
Preparation of N-acetyl-2,6-dimethyl-3-nitroaniline
To a mixture of 30.1 g of N-acetyl-2,6-xylidine (0.18 mole) and 40 ml of acetic acid (0.70 mole) was added gradually 80 ml of concentrated sulfuric acid (0.50 mole) with stirring under ice-cooling. Then, to the mixture was added slowly 10 ml of fuming nitric acid (0.24 mole) in a manner such that the temperature of the reaction mixture did not exceed 10° C. The reaction mixture was returned to room temperature and, after stirring for 2 hours, poured onto ice. The resulting crystalline precipitate was collected by filtration and recrystallized from ethanol to give 35.5 g (92%) of the title compound (m.p. 171°-173° C.; pale yellow needles).

reactant | N-acetyl-2,6-xylidine | 0.18 mole, 30.1 g | C(C)(=O)NC=1C(=CC=CC1C)C | C10H13NO
reactant | acetic acid | 0.70 mole, 40 ml | C(C)(=O)O | C2H4O2
reactant | sulfuric acid | 0.50 mole, 80 ml | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | 0.24 mole, 10 ml | [N+](=O)(O)[O-] | HNO3
product | N-acetyl-2,6-dimethyl-3-nitroaniline | 35.5 g, 92% | C(C)(=O)NC1=C(C(=CC=C1C)[N+](=O)[O-])C | C10H12N2O3
